US07727979B2
2-methyl-2-propyl-cyclohexanone (Precursor-Product for Example C-29)
The alkylation of 2-methylcyclohexanone with 1-iodopropane takes place in a manner similar to that described above for the preparation of 2,2-dimethyl-cyclohexanone.

reactant | 2-methylcyclohexanone | CC1C(CCCC1)=O | C7H12O
reactant | 1-iodopropane | ICCC | C3H7I
reactant | 2,2-dimethyl-cyclohexanone | CC1(C(CCCC1)=O)C | C8H14O
product | 2-methyl-2-propyl-cyclohexanone | CC1(C(CCCC1)=O)CCC | C10H18O
